US06310095B1
N-Butyl-N-quinolin-2-ylamine
2-Chloroquinoline (500 mg, 3.06 mmol), butylamine (0.90 nrL, 9.16 mmol), and diisopropylethylamine (0.82 mL, 4.58 mmol) were dissolved in acetonitrile (5 mL), and solution refluxed 2 days. Reaction cooled and diluted with EtOAc. Reaction washed with water and brine. Organic layer dried with Na2SO4, filtered, and concentrated in vacuo. Residue purified by flash chromatography on silica gel eluting with 15% EtOAc/Hexanes to afford the desired product as a pale yellow oil (188 mg, 31% ). m/e (DCI) 201 (MH+)

reactant | 2-Chloroquinoline | 3.06 mmol, 500 mg | ClC1=NC2=CC=CC=C2C=C1 | C9H6ClN
reactant | butylamine | 9.16 mmol | C(CCC)N | C4H11N
reactant | diisopropylethylamine | 4.58 mmol, 0.82 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Butyl-N-quinolin-2-ylamine | 188 mg, 31% | C(CCC)NC1=NC2=CC=CC=C2C=C1 | C13H16N2
